US07193077B2
Preparation of 2-Furanyl-di-(2,4-dimethoxyphenyl)methanol
Methyl-2-furoate (1.58 g, 0.0125 mol) was dissolved in 100 mL of dry THF. A dropping funnel containing 50 mL of a 0.5 M solution of 2,4-dimethoxyphenylmagnesium bromide in THF (Aldrich) was attached to the reaction flask and the system was purged with argon. The reaction flask was submerged in an ice bath for 5 minutes, at which time the Grignard solution was added drop-wise over 15 minutes. After addition was complete, the reaction was allowed to warm to room temperature and was stirred overnight. A brown solution resulted after 14 hours of stirring. This solution was added to 150 g crushed ice and the slush was stirred with ˜0.5 g sodium bicarbonate during drop-wise addition of conc. HCl A violet color was observed upon addition of acid, which was continued until effervescence was observed. The resulting neutral suspension was extracted into ˜400 mL EtOAc and the organic layer was dried over MgSO4. Removal of solvent in a rotary evaporator gave a clear/yellow oil. Upon standing in ˜30 mL EtOAc (12 h), the oil had turned deep blue and a white crystalline solid had settled out. The solid was collected and gave 1.7 g desired product. The blue solution was chromatographed in 50% EtOAc/50% hexanes and the second product to elute (deep violet upon acid treatment on TLC plate) was collected. Recrystallization of this product gave an additional 1.3 g pure desired alcohol. 3.0 g/4.6 g=65% yield.

reactant | Methyl-2-furoate | 0.0125 mol, 1.58 g | COC(=O)C=1OC=CC1 | C6H6O3
reactant | 2,4-dimethoxyphenylmagnesium bromide | COC1=C(C=CC(=C1)OC)[Mg]Br
reactant | sodium bicarbonate | ˜0.5 g | C([O-])(O)=O.[Na+]
reactant | HCl | Cl | ClH
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | EtOAc | ˜30 mL | CCOC(=O)C | C4H8O2
product | 2-Furanyl-di-(2,4-dimethoxyphenyl)methanol | 1.7 g | O1C(=CC=C1)C(O)(C1=C(C=C(C=C1)OC)OC)C1=C(C=C(C=C1)OC)OC | C21H22O6
